US07763608B2
To a solution of 2-(4-(hydroxymethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoic acid prepared above (92 mg, 0.30 mmol) in MeOH (4 mL) and dioxane (2 mL) at room temperature, (trimethylsilyl)diazomethane (2 M in ether, 0.30 mL, 0.60 mmol) was added. After the mixture was stirred at room temperature overnight, more (trimethylsilyl)diazomethane (2 M in ether, 0.40 mL, 0.80 mmol) was added. After stirring for another day, the solution was concentrated in vacuo to give a residue. The residue was dissolved in SOCl2 (4 mL). The solution was stirred at room temperature for 20 min before it was concentrated in vacuo to give a residue, which was then dissolved in DMF (3 mL). To the solution, NaN3 (65 mg, 1.0 mmol) was added. After the mixture was stirred at room temperature for 2 h, water and EtOAc were added, then 5% aq. NaHCO3 was added. The organic layer was separated, dried over Na2SO4, concentrated in vacuo to give methyl 2-(4-(azidomethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoate (25 mg). MS 351.1 (M+H).

reactant | 2-(4-(hydroxymethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoic acid | OCC=1N=CN(C1)C1=C(C(=O)O)C=C(C=C1)N1C(C=CC=C1)=O | C16H13N3O4
reactant | (trimethylsilyl)diazomethane | 0.60 mmol, 2 M, 0.30 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | (trimethylsilyl)diazomethane | 0.80 mmol, 2 M, 0.40 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | NaN3 | 1.0 mmol, 65 mg | [N-]=[N+]=[N-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | MeOH | 4 mL | CO | CH4O
solvent | SOCl2 | 4 mL | O=S(Cl)Cl | Cl2OS
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | methyl 2-(4-(azidomethyl)-1H-imidazol-1-yl)-5-(2-oxopyridin-1(2H)-yl)benzoate | 25 mg | N(=[N+]=[N-])CC=1N=CN(C1)C1=C(C(=O)OC)C=C(C=C1)N1C(C=CC=C1)=O | C17H14N6O3
